US08809304B2
(21-1) Synthesis of 2-[(t-butyloxycarbonyl)amino]-2-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]malonic Acid Diethyl Ester (Compound 21-1)
Diethyl (t-butyloxycarbonyl)aminomalonate (52.3 g) was dissolved in tetrahydrofuran (400 ml), sodium t-butoxide (19.2 g) was added thereto, a solution of 2-(2-bromoethoxy)tetrahydro-2H-pyran (40.4 g) in tetrahydrofuran (100 ml) was added to the reaction mixture at 70° C., and the mixture was stirred with heating for 10 hr. After cooling, the reaction mixture was poured into saturated brine. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography to give the object product (50.0 g) as a colorless oil.

reactant | Diethyl (t-butyloxycarbonyl)aminomalonate | 52.3 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
reactant | sodium t-butoxide | 19.2 g | CC(C)([O-])C.[Na+]
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 40.4 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-[(t-butyloxycarbonyl)amino]-2-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]malonic Acid Diethyl Ester | 50.0 g | C(C)OC(C(C(=O)OCC)(CCOC1OCCCC1)NC(=O)OC(C)(C)C)=O | C19H33NO8
